### PR TITLE
feat: more tree map lemmas for minKey?

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides lemmas about the tree map function `minKey?` and its interaction with other functions for which lemmas already exist.

### CODE REVIEW

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -4353,6 +4370,99 @@ theorem minKey?_le_minKey?_erase! [TransOrd α] (h : t.WF) {k km kme} :
...
+theorem minKey?_insertIfNew!_le_self [TransOrd α] (h : t.WF) {k v kmi} :
+    (hkmi : (t.insertIfNew! k v |>.minKey?.get <| isSome_minKey?_insertIfNew! h) = kmi) →
+    compare kmi k |>.isLE := by
+  simpa only [insertIfNew_eq_insertIfNew!] using minKey?_insertIfNew_le_self h
+
+theorem minKey?_modify [TransOrd α] [LawfulEqOrd α] {k f} (h : t.WF) :
+    (t.modify k f).minKey? = t.minKey? := by
+  simp_to_model [modify] using List.minKey?_modifyKey
+
+theorem minKey?_alter_eq_self [TransOrd α] [LawfulEqOrd α] (h : t.WF) {k f} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:4417]: Are you planning to add more lemmas for the interaction of `minKey?` and `alter`? _Technically_ the interaction is fully specified by the existing `alter` lemmas and `minKey?_eq_some_iff_mem_and_forall` so it's not strictly necessary, but it might be possible to say something more direct.

File: src/Std/Data/Internal/List/Associative.lean [hunk 2]
```diff
@@ -696,6 +696,10 @@ theorem getKey_congr [BEq α] [EquivBEq α] {l : List ((a : α) × β a)}
     {k k' : α} (h : k == k') {h'} {h''} : getKey k l h' = getKey k' l h'' := by
   simpa only [getKey?_eq_some_getKey, h', h'', Option.some.injEq] using getKey?_congr (l := l) h
 
+theorem getKey_eq_getEntry_fst [BEq α] [LawfulBEq α] {l : List ((a : α) × β a)} {a : α}
+    {h :containsKey a l} : getKey a l h = (getEntry a l h).fst := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean:700]: What is this, CSS?
```suggestion
    {h : containsKey a l} : getKey a l h = (getEntry a l h).fst := by
```

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:4417]: Hmm, I think adding these lemmas would not make it particularly more ergonomic than going through `mem_alter` and `minKey?_eq_some_iff_mem_and_forall`, so let's just stick with the existing lemmas and add additional lemmas based on real-world examples we encounter.

**Review by TwoFX — APPROVED** [review]
